US07071358B2
Step C. 2,5-Dichloro-N-cyclopentyl-N-[4-(1-hydroxy-3-phenyl-1-trifluoromethyl-prop-2-ynyl)-phenyl]-benzenesulfonamide
A mixture of 53 mg of 2-(4-cyclopentylamino-phenyl)-1,1,1-trifluoro-4-phenyl-but-3-yn-2-ol (0.15 mmol) and 44 mg of 2,5-dichlorobenzenesulfonyl chloride (0.18 mmol) in 0.2 ml of pyridine was heated to 70° C. for 14 hours. After this time the reaction mixture was allowed to cool to room temperature, quenched by the addition of a saturated aqueous solution of ammonium chloride, and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography on silica (hexanes:EtOAc, 4:1) to give the title compound. 1H-NMR (CDCl3) δ 1.36–1.58 (m, 6H), 1.97–2.07 (m, 2H), 4.73–4.78 (m, 1H), 7.18 (d, J=8.4 Hz, 2H), 7.37–7.55 (m, 7H), 7.76 (d, J=8.4 Hz, 2H), 7.84 (d, J=2.4 Hz, 1H). Mass Spectrum (CI+) m/e=590.0 (M+23).

reactant | 2-(4-cyclopentylamino-phenyl)-1,1,1-trifluoro-4-phenyl-but-3-yn-2-ol | 0.15 mmol, 53 mg | C1(CCCC1)NC1=CC=C(C=C1)C(C(F)(F)F)(C#CC1=CC=CC=C1)O | C21H20F3NO
reactant | 2,5-dichlorobenzenesulfonyl chloride | 0.18 mmol, 44 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
product | 2,5-Dichloro-N-cyclopentyl-N-[4-(1-hydroxy-3-phenyl-1-trifluoromethyl-prop-2-ynyl)-phenyl]-benzenesulfonamide | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N(C1=CC=C(C=C1)C(C#CC1=CC=CC=C1)(C(F)(F)F)O)C1CCCC1 | C27H22Cl2F3NO3S
